US07348359B2
To a mixture of 43 mg (0.89 mmol) of NaH in 1 mL of dry DMF was added 216 mg (0.89 mmol, 0.15 mL) of triethyl 2-fluoro-2-phosphonoacetate diluted in 1 mL of dry DMP at 0° C. After the gas evolution ceased, the solution was stirred at this temperature for 15 minutes and 0.296 mmol of 2-acetyl-7-(2-propoxy-3-tert-butyl-5-ethylphenyl) benzo[b]furan diluted in 1 mL of dry DMF was added dropwise. The reddish solution was stirred to 0° C. until completion (TLC monitoring). After cooling, water was added and the mixture as extracted with ethyl acetate. The organic layer was washed with water and brine and dried over MgSO4. The solvents were evaporated under reduced pressure, and the residual oil was purified over silica gel (eluent: ethyl acetate/hexane: 5/95) to afford 2-fluoro-3-[7-(2-propoxy-3-tert-butyl-5-ethylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid ethyl ester as a clear yellow oil. 1H NMR (CDCl3), δ: 7.52 (d, J=7.8 Hz, 1H), 7.52 (d, J=7.2 Hz, 1H), 7.39 (d, J=3.4 Hz, 1H), 7.33 (t, J=7.6 Hz, 1H), 7.22 (d, J=2.1 Hz, 1H), 7.17 (d, J=2.2 Hz, 1H), 3.27 (t, J=6.2 Hz, 2H), 2.66 (dd, J=15.1, 7.5 Hz, 1H), 2.54 (d, J=3.4 Hz, 3H), 1.46 (s, 9H), 1.27 (t, J=7.7 Hz, 3H), 1.19 (m, 2H), 0.50 (t, J=7.4 Hz, 3H).

reactant | NaH | 0.89 mmol, 43 mg | [H-].[Na+]
reactant | triethyl 2-fluoro-2-phosphonoacetate | 0.89 mmol, 0.15 mL, 216 mg | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | 2-acetyl-7-(2-propoxy-3-tert-butyl-5-ethylphenyl) benzo[b]furan | 0.296 mmol | C(C)(=O)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)CC)C(C)(C)C)OCCC | C25H30O3
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-3-[7-(2-propoxy-3-tert-butyl-5-ethylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid ethyl ester | C(C)OC(C(=C(C)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)CC)C(C)(C)C)OCCC)F)=O | C29H35FO4
